US08067408B2
3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)methyl]-N-[(4′-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]benzamide
To a solution of 1,1-dimethylethyl (2S)-4-{[4-fluoro-3′-({[(3-formylphenyl)-carbonyl]amino}methyl)-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate (195 mg, 0.36 mmol) in dichloromethane (5 mL) was added 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine, and (110 mg, 0.36 mmol) and sodium triacetoxyborohydride (115 mg. 0.54 mmol) and the resulting solution was stirred at ambient temperature for 16 h and then treated with aqueous hydrochloric acid (2M, 2 mL) and stirred for a further 2 h. The mixture was treated with water (20 mL) and extracted with dichloromethane (25 mL). The organic phase was concentrated to dryness and the residue dissolved in methanol (5 mL), treated with aqueous hydrochloric acid (2M, 2 mL) and stirred at ambient temperature for 16 h. The mixture was then concentrated to dryness and the product purified by mass-directed automated preparative HPLC. Product-containing fractions were concentrated to dryness to afford 25 mg of the title compound. LC-MS m/z 733 (M+H)+, 0.79 min (ret time).

reactant | 1,1-dimethylethyl (2S)-4-{[4-fluoro-3′-({[(3-formylphenyl)-carbonyl]amino}methyl)-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | 0.36 mmol, 195 mg | FC1=C(C=C(C=C1)C1=CC(=CC=C1)CNC(=O)C1=CC(=CC=C1)C=O)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C32H36FN3O4
reactant | 5-(aminomethyl)-1,6-diethyl-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | NCC1=C(C2=C(N=C1CC)N(N=C2)CC)NC2CCOCC2 | C16H25N5O
reactant | sodium triacetoxyborohydride | 0.54 mmol, 115 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 2M, 2 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)methyl]-N-[(4′-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]benzamide | 25 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNCC=2C=C(C(=O)NCC=1C=C(C=CC1)C1=CC(=C(C=C1)F)CN1C[C@@H](NCC1)C)C=CC2)CC | C43H53FN8O2
